US08809370B2
To a suspension of pyridine-2,6-dicarboxylic acid (0.200 g, 1.20 mmol, 1.0 eq) in tetrahydrofuran (6.0 mL) was added 4-fluorobenzylpiperazine (0.116 g, 0.60 mmol, 0.5 eq). Triethylamine (0.33 mL, 2.40 mmol, 2.0 eq) was added followed by HATU (0.319 g, 0.84 mmol, 0.7 eq) and the reaction was stirred at room temperature for 14 hours. The reaction mixture was diluted with methanol (3.0 mL) and (trimethylsilyl)diazomethane (2.0 mL of a 2M solution in hexane, 4.00 mmol). The reaction mixture was stirred at room temperature for 30 minutes before concentrating under reduced pressure. The residue was partitioned between NaHCO3 (50 mL) and EtOAc (50 mL). The organics were washed with brine (50 mL), dried (Na2SO4) and concentrated under reduced pressure. Column chromatography (silica, 2→5% MeOH—CH2Cl2) yielded methyl 6-(4-(4-fluorobenzyl)piperazine-1-carbonyl)picolinate (0.214 g, 50%) as a white solid; m/z: 358 [M+H]+. To a solution of the methyl 6-(4-(4-fluorobenzyl)piperazine-1-carbonyl)picolinate (0.214 g, 0.60 mmol, 1.0 eq) in tetrahydrofuran (4.0 mL) was added a solution of lithium hydroxide monohydrate (0.050 g, 1.20 mmol, 2.0 eq) in water (3.0 mL). The reaction was stirred at room temperature for 25 minutes before neutralizing with HCl (approximately 0.6 mL of a 2M solution). The reaction mixture was concentrated to dryness to yield 6-(4-(4-fluorobenzyl)piperazine-1-carbonyl)picolinic acid, which was used without further purification; m/z: 344 [M+H]+. To a solution of the crude 6-(4-(4-fluorobenzyl)piperazine-1-carbonyl)picolinic acid (approximately 0.200 mmol, 1.0 eq) and triethylamine (0.083 mL, 0.600 mmol, 3.0 eq) in dimethylformamide (2.0 mL) was added 1-phenylpiperazine (0.036 mL, 0.240 mmol, 1.2 eq). HATU was added and the reaction shaken at room temperature for 2.5 hours before partitioning between EtOAc (50 mL) and NaHCO3-water (1:1, 50 mL). The organics were further washed with brine (50 mL), water (50 mL) and brine (50 mL) before drying (Na2SO4) and concentrating under reduced pressure. Column chromatography (silica, 3→7% MeOH—CH2Cl2) yielded Compound 94 as a colourless oil; 1H nmr (CDCl3) δ 7.92 (1H, t, J 7.5 Hz, pyH-4), 7.73 (1H, d, J 8.0 Hz, pyH-3 or pyH-5), 7.70 (1H, d, J 7.5 Hz, pyH-3 or pyH-5), 7.33-7.22 (4H, m, 2H of C6H4F and 2H of C6H5), 7.01-6.90 (5H, m, 2H of C6H4F and 3H of C6H5), 3.97 (2H, dd, J 5.5, 5.0 Hz, 2H of piz), 3.81 (2H, dd, J 5.0, 4.5 Hz, 2H of piz), 3.74 (2H, t, J 5.0 Hz, 2H of piz), 3.55 (2H, dd, J 5.0, 4.5 Hz, 2H of piz), 3.46 (2H, s, CH2C6H4F), 3.29 (2H, t, J 5.0 Hz, 2H of piz), 3.17 (2H, dd, J 5.5, 4.5 Hz, 2H of piz), 2.52 (2H, t, J 5.0 Hz, 2H of piz), 2.39 (2H, dd, 5.0, 4.5 Hz, 2H of piz); m/z: 488 [M+H]+.

reactant | methyl 6-(4-(4-fluorobenzyl)piperazine-1-carbonyl)picolinate | 0.60 mmol, 0.214 g, 1.0 eq | FC1=CC=C(CN2CCN(CC2)C(=O)C2=CC=CC(=N2)C(=O)OC)C=C1 | C19H20FN3O3
reactant | lithium hydroxide monohydrate | 1.20 mmol, 0.050 g, 2.0 eq | O.[OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
solvent | water | 3.0 mL | O | H2O
product | 6-(4-(4-fluorobenzyl)piperazine-1-carbonyl)picolinic acid | FC1=CC=C(CN2CCN(CC2)C(=O)C2=CC=CC(=N2)C(=O)O)C=C1 | C18H18FN3O3
